US06307087B1
Synthesis of 4-formyl-4′-ethoxybiphenyl
An oven dried resealable Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (1.1 mg, 0.005 mmol, 0.5 mol %), 2-(di-tert-butylphosphino)biphenyl (3.0 mg, 0.01 mmol, 1.0 mol %), 4-ethoxyphenylboronic acid (249 mg, 1.5 mmol), potassium fluoride (174 mg, 3.0 mmol), and 4-bromobenzaldehyde (185 mg, 1.0 mmol). The tube was evacuated and backfilled with argon, and THF (1 mL) was added through a rubber septum. The tube was sealed with a teflon screwcap, and the reaction mixture was stirred at room temperature until the starting aryl bromide had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (30 mL) and poured into a separatory funnel. The mixture was washed with water (20 mL), and the aqueous layer was extracted with ether (20 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 203 mg (90%) of the title compound.

reactant | 4-ethoxyphenylboronic acid | 1.5 mmol, 249 mg | C(C)OC1=CC=C(C=C1)B(O)O | C8H11BO3
reactant | potassium fluoride | 3.0 mmol, 174 mg | [F-].[K+]
reactant | 4-bromobenzaldehyde | 1.0 mmol, 185 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
catalyst | palladium acetate | 0.005 mmol, 1.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.01 mmol, 3.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 4-formyl-4′-ethoxybiphenyl | 203 mg, 90% | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC | C15H14O2
